US07504411B2
A solution of 4′-chloro-2-bromoacetophenone (25.0 g, 107 mmol), water (1.92 mL, 107 mmol) and 47% hydrobromic acid (0.20 mL) in dimethylsulfoxide (160 mL) was stirred at 80° C. for 5 h. After the reaction mixture was poured into water, the precipitate was filtered, washed with diethylether and dried, affording 4′-chloro-2,2-dihydroxyacetophenone (14.0 g, 70%). 1H NMR (300 MHz, CDCl3), δ 5.92(1H, s), 7.45-7.52(2H, m), 8.05-8.20(2H, m).

reactant | 4′-chloro-2-bromoacetophenone | 107 mmol, 25.0 g | ClC1=CC=C(C=C1)C(CBr)=O | C8H6BrClO
reactant | water | 107 mmol, 1.92 mL | O | H2O
reactant | hydrobromic acid | 0.20 mL | Br | BrH
reactant | dimethylsulfoxide | 160 mL | CS(=O)C | C2H6OS
product | 4′-chloro-2,2-dihydroxyacetophenone | 14.0 g, 70% | ClC1=CC=C(C=C1)C(C(O)O)=O | C8H7ClO3
